### PR TITLE
feat(MultiTapeTM): Some lemmas about Turing machine tapes

### PR DESCRIPTION
**Pull request by crei**
Some useful lemmas about how the tapes are modified during the execution of Turing machines, some lemmas about halting behaviour and some about space usage (partly just moved).

This has been split out from #767

### CODE REVIEW

File: Cslib/Computability/Machines/Turing/MultiTape/Deterministic.lean [hunk 1]
```diff
@@ -251,17 +251,43 @@ def outputSymbol (cfg : Cfg k Symbol State input) : Option Symbol :=
...
+lemma step_of_halt {cfg : Cfg k Symbol State input} (h : cfg.state = none) :
+    tm.step cfg = cfg := by
+  unfold step
+  rw [h]
+
 /-- The sequence of configurations of the Turing machine starting from `cfg`.
 If the Turing machine halts, it will stay at the halting configuration. -/
 def configs (cfg : Cfg k Symbol State input) (t : ℕ) : Cfg k Symbol State input := tm.step^[t] cfg
 
-/-- Any number of steps run from a halting configuration results in the same configuration. -/
```
Comment (crei) [inline Cslib/Computability/Machines/Turing/MultiTape/Deterministic.lean:258]: Initially, I thought proofs should always first turn `configs` into `step^[n]` and then use the `Function.iterate_*` lemmas, but I think it's better to not unfold `configs` and add these lemmas here instead.

**Review by SamuelSchlesinger — APPROVED** [review]
This looks good to me. If you want to improve before merging, add docs to the lemmata that currently don't have doctext. Otherwise its fine to do as a followup.

**Comment by SamuelSchlesinger** [comment]
@fmontesi please merge when you get the chance.
